US04792616
To a suspension of 19.2 g of sodium hydride in 400 ml of dimethyl sulphoxide is added dropwise a solution of 54.0 g of 2,4-dihydroxybenzonitrile in 200 ml of dimethyl sulphoxide. After formation of the sodium salt 86.0 g of 3,4-dichloro-α,α,α-trifluorotoluene and 0.1 g of copper powder are added and the reaction mixture is stirred at 115° C. for 68 hours. Then the mixture is poured onto 2 kg of ice and the aqueous mixture acidified with concentrated hydrochloric acid and extracted severl times with 500 ml portions of ethyl acetate. The combined organic phases are neutralized and dried over anhydrous sodium sulphate, and the solvent is evaporated off under reduced pressure. Finally, the residue is prified by column chromatographyon silica gel using ethyl acetate / n-hexane (7:3) as the eluent and crystallized from methylene chloride. There is obtained the intermediate 4-[(2-chloro-α,α,α-trifluoro-p-tolyl)oxy]-salicylonitrile, m.p. 155°-156° C.; mass spectrum; m/e 313, 294, 278, 250,223, 209, 90, 63; infrared spectrum: main peak at 2230 cm-1.

reactant | sodium hydride | 19.2 g | [H-].[Na+]
reactant | 2,4-dihydroxybenzonitrile | 54.0 g | OC1=C(C#N)C=CC(=C1)O | C7H5NO2
reactant | sodium | 86.0 g | [Na] | Na
reactant | 3,4-dichloro-α,α,α-trifluorotoluene | ClC=1C=C(C=CC1Cl)C(F)(F)F | C7H3Cl2F3
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulphoxide | 400 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 200 ml | CS(=O)C | C2H6OS
catalyst | copper | 0.1 g | [Cu] | Cu
product | 4-[(2-chloro-α,α,α-trifluoro-p-tolyl)oxy]-salicylonitrile | ClC1=C(C=CC(=C1)OC=1C=C(C(C#N)=CC1)O)C(F)(F)F | C14H7ClF3NO2
